US04188391
dl-4-(1-Methylaminoprop-2-yl)pyridine (4.5 g.) in acetic acid (15 ml.) was treated cautiously with acetic anhydride (10 ml.) followed by allowing the mixture to stand at ambient temperature overnight. Methanol (20 ml.) was then added to destroy excess acetic anhydride, followed by evaporation in vacuo (at 40° C.) to remove methanol and methyl acetate. The residue was diluted with water and treated portionwise with sodium carbonate (anhydrous) until alkaline (pH 10-12). The oily suspension was extracted with chloroform (3×60 ml.) and the bulked extracts were dried (Na2CO3) and evaporated to dryness in vacuo to give a near-colorless oil (6.8 g.). The oil was distilled to give pure dl-4-(1-[N-methylacetamido]prop-2-yl)pyridine (3 g.), b.p. 138°-140°/0.4 mm Hg. (as a colorless oil).

reactant | 4-(1-Methylaminoprop-2-yl)pyridine | 4.5 g | CNCC(C)C1=CC=NC=C1 | C9H14N2
reactant | acetic anhydride | 10 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | Methanol | 20 ml | CO | CH4O
solvent | acetic acid | 15 ml | C(C)(=O)O | C2H4O2
product | 4-(1-[N-methylacetamido]prop-2-yl)pyridine | 3 g | CN(C(C)=O)CC(C)C1=CC=NC=C1 | C11H16N2O
